US04892956
5-Cyano-4,5-dihydro-3H-pyrazole-3,4-dicarboxylic acid diethyl ester
To a 500 ml, 3-neck, round bottom flask containing a cold (0° C.) slurry of 46.26 g (0.5 mol) of aminoacetonitrile hydrochloride and 32.74 ml (0.2 mol) of diethyl fumarate in 200 ml of ethyl acetate, were added dropwise, over one hour, an aqueous solution of sodium nitrite (34.5 g of sodium nitrite dissolved in 90 ml of water). The temperature of the reaction mixture was maintained between 0° C. and 5° C. during nitrite addition and then warmed to room temperature (24° C.), where the mixture was stirred for about 3 hours. The organic layer was separated from the aqueous layer and then stirred at room temperature overnight to provide a solution of title compound dissolved in ethyl acetate.

reactant | aminoacetonitrile hydrochloride | 0.5 mol, 46.26 g | Cl.NCC#N
reactant | diethyl fumarate | 0.2 mol, 32.74 ml | C(\C=C\C(=O)OCC)(=O)OCC | C8H12O4
reactant | sodium nitrite | 90 ml, 34.5 g | N(=O)[O-].[Na+]
reactant | nitrite | N(=O)[O-]
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 5-Cyano-4,5-dihydro-3H-pyrazole-3,4-dicarboxylic acid diethyl ester | C(C)OC(=O)C1N=NC(C1C(=O)OCC)C#N | C10H13N3O4
